US06245773B1
(3-(4-cyano-4-(2,4-difluorophenyl)piperidin-1-yl)propyl)carbamic acid tert-butyl ester.
To a stirred solution of 4-(2,4-difluorophenyl)-piperidine-4-carbonitrile (0.203 g, 0.914 mmol) in acetone (20 ml), N-(tert-butoxycarbonyl)-3-bromopropylamine (0.239 g, 1.00 mmol) potassium carbonate (0.505 g, 3.65 mmol) and sodium iodide (0.274 g, 1.82 mmol) were added and the solution refluxed for 24 hours. The reaction mixture was cooled to room temperature, concentrated and partitioned between chloroform (20 mL) and water (5 mL). The organic layer was dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography (ethyl acetate) to yield 0.259 g (75%) of the required product as a colorless oil.

reactant | 4-(2,4-difluorophenyl)-piperidine-4-carbonitrile | 0.914 mmol, 0.203 g | FC1=C(C=CC(=C1)F)C1(CCNCC1)C#N | C12H12F2N2
reactant | N-(tert-butoxycarbonyl)-3-bromopropylamine | 1.00 mmol, 0.239 g | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
reactant | sodium iodide | 1.82 mmol, 0.274 g | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | (3-(4-cyano-4-(2,4-difluorophenyl)piperidin-1-yl)propyl)carbamic acid tert-butyl ester | 0.259 g, 75% | C(C)(C)(C)OC(NCCCN1CCC(CC1)(C1=C(C=C(C=C1)F)F)C#N)=O | C20H27F2N3O2
